US07888364B2
1.2 g of 4-(2-chloroethyl)morpholine and 2.5 g of Cesium Carbonate were added to 334 mg of methyl 2-chloro-4-(methylsulfonamido)benzoate in 7 mL of DMF and stirred in the microwave at 150° C. for 30 minutes. The reaction mixture was extracted in Ethyl Acetate twice with water, dried over Magnesium Sulfate, filtered, concentrated to give crude methyl 2-chloro-4-(N-(2-morpholinoethyl)methylsulfonamido)benzoate. 476 mg of methyl 2-chloro-4-(N-(2-morpholinoethyl)methylsulfonamido)benzoate was hydrolyzed via Procedure M and purified by reverse phase HPLC to yield 460 mg of crude 2-chloro-4-(N-(2-morpholinoethyl)methylsulfonamido)benzoic acid. 100 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-chloro-4-(N-(2-morpholinoethyl)methylsulfonamido)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-(2-morpholinoethyl)methylsulfonamido)benzamide. MS (Q1) 549 (M)+.

reactant | 4-(2-chloroethyl)morpholine | 1.2 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | Cesium Carbonate | 2.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 2-chloro-4-(methylsulfonamido)benzoate | 334 mg | ClC1=C(C(=O)OC)C=CC(=C1)NS(=O)(=O)C | C9H10ClNO4S
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | methyl 2-chloro-4-(N-(2-morpholinoethyl)methylsulfonamido)benzoate | ClC1=C(C(=O)OC)C=CC(=C1)N(S(=O)(=O)C)CCN1CCOCC1 | C15H21ClN2O5S
